** sch_path: /foss/designs/sg13cmos5l_cm_ip__single2diff2single/macros/OgueyAebischerBias/testbenches/xschem/OgueyAebischerBias_tb.sch
**.subckt OgueyAebischerBias_tb
xbias vdd vbp vbn vbr 0 OgueyAebischerBias
xstart vdd vbp vbn disable vbr 0 ToBiasStartup
VDD vdd 0 dc 1.2 pwl(0 0 100m 1.2)
Voff disable 0 0
**** begin user architecture code


.options gmin=1e-15 abstol=1p
.option savecurrents
.nodeset v(vbp)=200m
.control
save all
op
remzerovec
write test_OgueyAebischerBias.op.raw
tran 20u .2
remzerovec
write test_OgueyAebischerBias.raw
plot vdd vbp vbn vbr xbias.vres
plot v.xbias.vi1#branch v.xbias.vi4#branch v.xbias.viaux#branch
.endc


 .lib cornerMOShv.lib mos_tt

.param mc_mm_switch=0
.param mc_pr_switch=1


**** end user architecture code
**.ends

* expanding   symbol:  OgueyAebischerBias.sym # of pins=5
** sym_path: /foss/designs/sg13cmos5l_cm_ip__single2diff2single/macros/OgueyAebischerBias/schematic/xschem/OgueyAebischerBias.sym
** sch_path: /foss/designs/sg13cmos5l_cm_ip__single2diff2single/macros/OgueyAebischerBias/schematic/xschem/OgueyAebischerBias.sch
.subckt OgueyAebischerBias vdd vbp vbn vbr vss
*.iopin vss
*.iopin vdd
*.iopin vbp
*.iopin vbn
*.iopin vbr
XM10 net3 vbn vres vss sg13_hv_nmos w=1u l=1u ng=1 m=4 mm_ok=1
XM12 vbp vbp vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=1 mm_ok=1
XM11 vbn vbn vss vss sg13_hv_nmos w=1u l=1u ng=1 m=1 mm_ok=1
XM13 net2 vbp vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=4 mm_ok=1
XM14 net1 vbp vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=2 mm_ok=1
XM16 vres vbr net5 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM15 vbr vbr net4 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
Vi1 vbp net3 0
.save i(vi1)
Vi4 net2 vbn 0
.save i(vi4)
Viaux net1 vbr 0
.save i(viaux)
XM18 net5 vbr net6 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM17 net4 vbr net7 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM20 net6 vbr net9 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM19 net7 vbr net8 vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM22 net9 vbr vss vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
XM21 net8 vbr vss vss sg13_hv_nmos w=1u l=20u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  ToBiasStartup.sym # of pins=6
** sym_path: /foss/designs/sg13cmos5l_cm_ip__single2diff2single/macros/OgueyAebischerBias/schematic/xschem/ToBiasStartup.sym
** sch_path: /foss/designs/sg13cmos5l_cm_ip__single2diff2single/macros/OgueyAebischerBias/schematic/xschem/ToBiasStartup.sch
.subckt ToBiasStartup vdd vbp vbn disable vbr vss
*.iopin vss
*.iopin vdd
*.iopin vbp
*.iopin vbn
*.iopin vbr
*.ipin disable
XM24 vbr disable vss vss sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM22 vbr vkick vdd vdd sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM25 vkick vbp vdd vdd sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM23 vbn disable vss vss sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM21 vbn vkick vdd vdd sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM20 disable vkick disable vss sg13_hv_nmos w=8u l=2u ng=1 m=1 mm_ok=1
XM26 vdd vbp vdd vss sg13_hv_nmos w=8u l=2u ng=1 m=1 mm_ok=1
.ends

.end
